### PR TITLE
Strengthen tcb_inv_wf, prove tcbinv_corres

### PR DESCRIPTION
**Pull request by pierzchalski**

### CODE REVIEW

File: proof/refine/ARM/Tcb_R.thy [hunk 1]
```diff
@@ -2346,62 +2346,64 @@ lemma setSchedulerAction_invs'[wp]:
...
-         apply (rule corres_guard_imp [OF writereg_corres], simp+)[1]
-        apply (rule corres_guard_imp [OF readreg_corres], simp+)[1]
-       apply (rule corres_guard_imp [OF copyreg_corres], simp+)[1]
+          apply (rule corres_guard_imp[OF writereg_corres], simp+)[1]
+         apply (rule corres_guard_imp[OF readreg_corres], simp+)[1]
+        apply (rule corres_guard_imp[OF copyreg_corres], simp+)[1]
+       apply (clarsimp simp del: invoke_tcb.simps)
+       apply (rename_tac word a b fault_h time_h croot vroot ipcb sl' fault_h' time_h' croot'
+                         vroot' ipcb')
+       apply (rule_tac F="is_aligned word 5" in corres_req)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:2375]: 5. Is there some special significance to this number? If the proof broke later on could we figure out what it was?

**Review by michaelmcinerney — APPROVED** [review]

File: proof/refine/ARM/Tcb_R.thy (hunk 1 above)
Comment (pierzchalski) [reply proof/refine/ARM/Tcb_R.thy:2375]: Ah, right. The unsatisfying answer is "that's what the number was previously", but I might dig into it and see where it comes from.

**Review by corlewis — APPROVED** [review]
Looks good to me! My only suggestion would be that the commit message would make more sense to me as "Adds the constraint that if _any_ tcb cte field is set, ...". The original message reads to me like it only holds when fault handers are being set, which isn't true.

File: proof/refine/ARM/Tcb_R.thy (hunk 1 above)
Comment (pierzchalski) [reply proof/refine/ARM/Tcb_R.thy]: We will never know the true significance of 5, for it turns out it was unnecessary for the proof.

**Comment by pierzchalski** [comment]
[testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-645)

**Comment by pierzchalski** [comment]
[Post-rebase testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-647)

File: proof/refine/ARM/Tcb_R.thy (hunk 1 above)
Comment (mktnk3) [reply proof/refine/ARM/Tcb_R.thy]: good that this was sorted in that way.

**Comment by mktnk3** [comment]
> Looks good to me! My only suggestion would be that the commit message would make more sense to me as "Adds the constraint that if _any_ tcb cte field is set, ...". The original message reads to me like it only holds when fault handers are being set, which isn't true.

has this been addressed?

**Comment by pierzchalski** [comment]
> 
> 
> > Looks good to me! My only suggestion would be that the commit message would make more sense to me as "Adds the constraint that if _any_ tcb cte field is set, ...". The original message reads to me like it only holds when fault handers are being set, which isn't true.
> 
> has this been addressed?

I think so? @corlewis does [this wording](https://github.com/seL4/l4v/pull/132/commits/b82a718a07627a815a8f67dd488133c12dd79adf) address your concern?

**Comment by corlewis** [comment]
> 
> 
> > > Looks good to me! My only suggestion would be that the commit message would make more sense to me as "Adds the constraint that if _any_ tcb cte field is set, ...". The original message reads to me like it only holds when fault handers are being set, which isn't true.
> > 
> > 
> > has this been addressed?
> 
> I think so? @corlewis does [this wording](https://github.com/seL4/l4v/pull/132/commits/b82a718a07627a815a8f67dd488133c12dd79adf) address your concern?

Yep!

**Comment by mktnk3** [comment]
great, all good then!
